US04343945
5-Benzamido-3-Trichloromethyl-1,2,4-Thiadiazole
A solution of 11.0 g (0.05 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole and 14.1 g (0.1 mole) benzoyl chloride in 200 ml xylene was heated at reflux for 20 hours. Upon cooling to -10° C., 13.7 g (85% yield) of pure product precipitated from the reaction mixture and was isolated by filtration; m.p. 190° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 11.0 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | benzoyl chloride | 0.1 mole, 14.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Benzamido-3-Trichloromethyl-1,2,4-Thiadiazole | 13.7 g, 85% yield | C(C1=CC=CC=C1)(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl | C10H6Cl3N3OS
